US04018851
A nitrogen-swept, 4-necked resin kettle equipped with a stainless steel stirrer, nitrogen inlet tube, thermometer, condenser, and entrance port, was heated to approximately 60° C and charged with the following: 25.0 grams of methylene-bis-phenylisocyanate (MDI) and a solution of 35.0 grams of triethyleneglycol dimethyacrylate (TRIEGMA) and 200 ppm of a quinone stabilizer. A degassed polypropyleneoxide polyol containing polystryene and polyacrylonitrile branches grafted onto the polyol backbone ("Pluracol" 581, OH No. = 26.5, BASF-Wyandotte, Wyandotte, Mich. was added slowly (212 grams within 21/2 hours). After completion of the polyol addition, heating was continued (60°-68° C pot temperature) for one-half hour and a small sample was then removed for NCO analysis. A standard dibutylamine titration procedure yielded a titer of 1.56% NCO. The theoretical NCO content of the desired prepolymer was 1.53%.

reactant | methylene-bis-phenylisocyanate | 25.0 grams | C(C1=C(C=CC=C1)N=C=O)C1=C(C=CC=C1)N=C=O | C15H10N2O2
reactant | triethyleneglycol dimethyacrylate | 35.0 grams | CC(=CC(=O)OCCOCCOCCO)C | C11H20O5
product | dibutylamine | C(CCC)NCCCC | C8H19N
